*
* Linear Technology LT1001A op amp model (with calls for LT1002A)
* Written: 10-16-1989 15:04:20 Type: Bipolar npn input, internal comp.
* LT1001A updated from original model on 05-18-1990
* Typical specs: 
* Vos=1.00E-05, Ib=5.00E-10, Ios=3.00E-10, GBP=8.0E+05Hz, Phase mar.=60.0deg,
* SR(+)=3.3E-01V/us, SR(-)=3.1E-01V/us, Av=118dB, CMMR=126dB, 
* Vsat(+)=1.00V, Vsat(-)=1.00V, Isc=+/-25.0mA, Iq=1600uA
* (input differential mode clamp active)
* 
* Connections: + - V+V-O 
.SUBCKT LT1001A 3 2 7 4 6
* INPUT
RC1 7 80 6.631E+03
RC2 7 90 6.631E+03
Q1 80 102 10 QM1 
Q2 90 103 11 QM2 
RB1 2 102 5.000E+02
RB2 3 103 5.000E+02
DDM1 102 104 DM2 
DDM3 104 103 DM2 
DDM2 103 105 DM2 
DDM4 105 102 DM2 
C1 80 90 8.660E-12
RE1 10 12 1.409E+03
RE2 11 12 1.409E+03
IEE 12 4 9.901E-06
RE 12 0 2.020E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 7.558E-11
GA 8 0 80 90 1.508E-04
R2 8 0 1.000E+05
C2 1 8 3.000E-11
GB 1 0 8 0 1.538E+03
* OUTPUT 
RO1 1 6 2.575E+01
RO2 1 0 3.425E+01
RC 17 0 4.228E-06
GC 0 17 6 0 2.365E+05
D1 1 17 DM1 
D2 17 1 DM1 
D3 6 13 DM2 
D4 14 6 DM2 
VC 7 13 1.803E+00
VE 14 4 1.803E+00
IP 7 4 1.590E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.000E-16 BF=7.692E+03)
.MODEL QM2 NPN (IS=8.003E-16 BF=1.429E+04)
.MODEL DM1 D (IS=2.331E-08)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LT1001A
* 
.SUBCKT LT1002A 3 2 7 4 6
X_LT1002A 3 2 7 4 6 LT1001A
.ENDS LT1002A
* 
* - - - - - * FINI LT1001A FAMILY * - - - - - * [OAMM VN01 9/89]

***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
