* 
* Linear Technology LTC1049 op amp model  
* Written: 05-11-1990 11:36:48 Type: PMOS input, internal comp.
* Typical specs: 
* Vos=2.0E-06, Ib=3.0E-11, Ios=1.5E-11, GBP=8.0E+05Hz, Phase mar.= 45 deg, 
* SR(-)=8.0E-01V/us, SR(+)=8.0E-01V/us, Av=160.0dB, CMRR=130.0dB, 
* Vsat(+)=0.010V, Vsat(-)=0.010V, Isc=+ 3/-10mA, Rout= 200ohms, Iq=0.20mA.
* Note: Maximum total supply voltage for LTC1049 is 18 volts.
* 
* Connections: + - V+V-O 
.SUBCKT LTC1049 3 2 7 4 6 
* INPUT
RD1 4 80 6.6315E+03
RD2 4 90 6.6315E+03
M1 80 2 12 12 PM1 
M2 90 3 12 12 PM2 
CIN 2 3 5.0000E-12
DG1 2 7 DMG1
DG2 3 7 DMG2
C1 80 90 1.5000E-11
ISS 7 12 2.4000E-05
* INTERMEDIATE 
GCM 0 8 12 0 4.7686E-11
GA 8 0 80 90 1.5080E-04
R2 8 0 1.0000E+05
C2 1 8 3.0000E-11
GB 1 0 8 0 3.3324E+04
RO2 1 0 1.9900E+02
* OUTPUT 
RSO 1 6 1.0000E+00
ECL 18 0 1 6 2.8534E+02
GCL 0 8 20 0 1.0000E+00
RCL 20 0 1.0000E+01
D1 18 19 DM1 
VOD1 19 20 0.0000E+00
D2 20 21 DM1 
VOD2 21 18 1.9974E+00
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0 8 70 7 1.0000E+00
VC 13 6 1.3894E+00
RPLA 7 70 1.0000E+01
RPLB 7 131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14 DM3 
GNL 0 8 60 4 1.0000E+00
VE 6 14 1.3894E+00
RNLA 60 4 1.0000E+01
RNLB 141 4 1.0000E+03
* 
IP 7 4 1.7600E-04
DSUB 4 7 DM2 
* MODELS 
.MODEL PM1 PMOS (KP=9.4748E-04 VTO=-1.1000000E+00)
.MODEL PM2 PMOS (KP=9.4748E-04 VTO=-1.1000020E+00)
.MODEL DM1 D (IS=1.0000E-20)
.MODEL DM2 D (IS=8.0000E-16 BV=1.9800E+01)
.MODEL DM3 D (IS=1.0000E-16)
.MODEL DMG1 D (IS=3.7500E-11)
.MODEL DMG2 D (IS=2.2500E-11)
.ENDS LTC1049
* 
* - - - - - * FINI LTC1049 * - - - - - * [OAMM VM02 5/11/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
